US06214992B1
a) 3-Methyl-7-tritylxanthine
0.62 g (25.88 mmol) of sodium hydride was added in portions at 60° C. to a suspension of 3.9 g (23.5 mmol) of 3-methylxanthine in 85 ml of dimethylformamide, and the mixture was stirred at this temperature for 1.5 hours and heated to 90° C. 6.6 g (23.67 mmol) of trityl chloride in 30 ml of dimethylformamide were then added and the mixture was stirred at 90° C. for 3 hours. The solid was then filtered off hot with suction and the filtrate was concentrated under reduced pressure, the residue was taken up in 1 N sodium hydroxide solution, the mixture was heated to 80° C. and the solid was filtered off with suction. The filtrate was brought to pH 4-5 using 2 N hydrochloric acid. The precipitate formed in this way was purified by flash chromatography on a silica gel column, dichloromethane/methanol (19/0.2). Yield:

reactant | sodium hydride | 25.88 mmol, 0.62 g | [H-].[Na+]
reactant | 3-methylxanthine | 23.5 mmol, 3.9 g | CN1C(NC(C=2NC=NC12)=O)=O | C6H6N4O2
reactant | trityl chloride | 23.67 mmol, 6.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3-Methyl-7-tritylxanthine | CN1C(NC(C=2N(C=NC12)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O | C25H20N4O2
